US07741326B2
To a flask was added 3-benzyl-7-bromo-5-methyl-benzofuran-2-carbonitrile (0.13 gm, 0.40 mmol), 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (0.161 gm, 0.52 mmol), [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium (0.020 gm, 0.0245 mmol), and potassium carbonate (0.124 gm, 0.9 mmol). Dimethylfomamide was added via syringe and the mixture evacuated and refilled with nitrogen, then heated for 16 hours at 80° C. The mixture was concentrated under vacuum, water was added, and the mixture was extracted with ethyl acetate. The combined organic phase was dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give crude 4-(3-benzyl-2-cyano-5-methyl-benzofuran-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a residue that was used directly in the next step without further characterization.

reactant | 3-benzyl-7-bromo-5-methyl-benzofuran-2-carbonitrile | 0.40 mmol, 0.13 gm | C(C1=CC=CC=C1)C1=C(OC2=C1C=C(C=C2Br)C)C#N | C17H12BrNO
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.52 mmol, 0.161 gm | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | potassium carbonate | 0.9 mmol, 0.124 gm | C([O-])([O-])=O.[K+].[K+]
catalyst | [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium | 0.0245 mmol, 0.020 gm | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(3-benzyl-2-cyano-5-methyl-benzofuran-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC(=CC=2C(=C(OC21)C#N)CC2=CC=CC=C2)C | C27H28N2O3
